Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Gall Bladder Mass
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy, cholecystectomy segment IVB and 
V resection of portal lymphadenectomy.

 
History of Present Illness:
___- y/o male with an extensive past history that has routine 
followup
studies and was noted to have an abnormality that demonstrated a 
fundal mass in
the gallbladder that was suspicious for a primary gallbladder
carcinoma.  He was also noted to have cholelithiasis without 
evidence of cholecystitis.  The mass within the gallbladder is 
measured 2.2 x 1.6 x 2.6.  There was no comment on peripheral 
regional adenopathy or invasion into
the liver itself. Surgical excision was recommended and he now 
presents for resection.

 
Past Medical History:
TIAs, R Carotid Endarterectomy ___  
Obstructive Sleep Apnea  
Duodenal Ulcer  
Hypertension  
Gout  
Glaucoma  

 
Social History:
___
Family History:
No family history of GU Cancer 
 
Physical Exam:
VS: 98.6, 89, 136/83, 20, 96%RA
HEENT: PERRLA, Right-sided carotid endarterectomy incision.  No 
cervical or supraclavicular adenopathy 
Card: RRR, no M/R/G
Lungs: CTA bilaterally
Abdomen: soft, nontender, and nondistended. Old incisions are 
well
healed, new incision C/D/I. Ileal conduit is patent in the lower 
abdomen. 
Extr: No lower extremity edema. 
 
Pertinent Results:
On Admission: ___
WBC-7.7 RBC-4.35* Hgb-13.2* Hct-39.3* MCV-90 MCH-30.4 MCHC-33.7 
RDW-13.4 Plt ___ PTT-26.1 ___
UreaN-14 Creat-1.1 Na-139 K-4.5 Cl-102 HCO3-28 AnGap-14 
Glucose-157*
ALT-25 AST-23 AlkPhos-104 TotBili-0.4
Albumin-3.6 Calcium-8.7 Phos-4.1 Mg-2.0
___  %HbA1c-6.6* eAG-143*
___ CEA-9.1* AFP-2.4  CA ___ - 287       
On Discharge: ___ 
WBC-11.6* RBC-3.35* Hgb-9.9* Hct-30.0* MCV-90 MCH-29.6 MCHC-33.0 
RDW-13.3 Plt ___
Glucose-194* UreaN-16 Creat-1.1 Na-137 K-4.0 Cl-101 HCO3-30 
AnGap-10
Glucose-139*
ALT-135* AST-62* AlkPhos-110 TotBili-0.4
Calcium-8.9 Phos-2.9 Mg-2.___ y/o male with extensive PMH is taken to the OR with ___ ___ 
___ for a gallbladder mass seen on a screening CT.
At the time of the surgery they did not find any evidence of 
carcinomatosis. There was a nodule within the gallbladder at the 
fundus in proximity to the gallbladder fossa but appeared to be 
more in the free wall of the fundus rather than in proximity to 
the fossa itself.
Frozen section showed the mass consistent with gallbladder 
cancer and there was some concern that, in fact, it was invading 
the liver and the margin on the segment IVB
side was relatively close. At that time it was determined 
complete the IVB/V resections. An additional 1-2 cm of segment 
IVB and then extended this to the patient's left side all the 
way to the falciform ligament, taking segment V
and IVB with the specimen. The margin was taken all the way to 
the falciform ligament and then down to the left portal vein 
completely removing segment IVB and segment V. One drain was 
left in place and the patient was noted to have no 
complications.
Pathology returned as Adenocarcinoma, gallbladder with no 
carcinoma noted in the liver margins. Please see pathology 
report for final details.
In the post op period the patient remained afebrile. He was 
started back on a diet with good tolerance. Urine output was 
excellent with good function of the ileal conduit.
The JP drain had minimal and decreasing output daily and was 
pulled prior to discharge. 
He was tolerating diet, ambulating without difficulty and had 
return of bowel function. Incision was clean/dry intact.
AST and ALT were elevated on POD1 but were trending back to 
normal, T bili 0.4 and Alk phos stable.
Tumor markers were sent while in house:  CEA-9.1* AFP-2.4  CA 
___ - 287*   
Also of note the patient was having some elevated blood sugars 
post op.  Fasting ranging from 139 on day of discharge as high 
as 194. A HgbA1C was sent :%HbA1c-6.6* eAG-143* The patient has 
been instructed to follow up closely with his PCP and his 
appointment has been moved up.

 
Medications on Admission:
Lumigan 0.03% 1 ggt ___, Alphagan 0.15% 1 gtt ___ bid, HCTZ 
12.5', lisinopril 10', metoprolol 12.5", ranitidine 150', 
simvastatin 20', acetaminophen, vitamin C 1000', aspirin 81', 
calcium  
carbonate, multivitamins and multivitamin with B  

 
Discharge Medications:
1. Bimatoprost 0.03 % Drops Sig: One (1) drop ___ Ophthalmic ___ 
().  
2. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
6. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
9. Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day.  

10. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*15 Tablet(s)* Refills:*0*
12. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day): Continue twice daily for soft stool, especially 
if taking oxycodone.  
13. Calcium Carbonate 500 mg (1,250 mg) Tablet Sig: One (1) 
Tablet PO once a day.  
14. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallbladder carcinoma

 
Discharge Condition:
Stable
A+Ox3
Ambulatory

 
Discharge Instructions:
Please call Dr ___ office at ___ for fever, 
chills, nausea, vomiting, diarrhea, constipation, inability to 
take or keep down food, fluids or medications.
Monitor the incision for redness, drainage or bleeding. You may 
leave this open to air. Also the dressing over the drain site 
can be removed on ___.
No heavy lifting
You may shower, allow water to run over incision and pat dry. 
You may leave open to air.
No swimming or tub baths until notified you may do so
No driving if taking narcotic pain medication
Dr ___ will be following up with you on ___ regarding blood 
sugar
 
Followup Instructions:
___